US08420816B2
Step B: 1-tert-butyl 3-methyl 4-((1-(cyclopentylcarbamoyl)cyclopentylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate
To 1-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)cyclopentanecarboxylic acid was added THF (2 mL), HATU (94 mg, 0.246 mmol), cyclopentanamine (70.0 mg, 0.822 mmol) and 4-methylmorpholine (83 mg, 0.822 mmol). The suspension was stirred at 43° C. for 36 h to afford the title compound, which was used in the next step without further purification. [M+H] calc'd for C26H36N4O5, 485; found, 485.4.

reactant | 1-((1-(tert-butoxycarbonyl)-3-(methoxycarbonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)cyclopentanecarboxylic acid | C(C)(C)(C)OC(=O)N1C=C(C=2C1=NC=CC2CNC2(CCCC2)C(=O)O)C(=O)OC | C21H27N3O6
reactant | HATU | 0.246 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 0.822 mmol, 70.0 mg | C1(CCCC1)N | C5H11N
reactant | 4-methylmorpholine | 0.822 mmol, 83 mg | CN1CCOCC1 | C5H11NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-methyl 4-((1-(cyclopentylcarbamoyl)cyclopentylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC(=O)C1(CCCC1)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C | C26H36N4O5
